US07138108B2
A solution of 4-(2-methylallyloxy)-benzaldehyde (7.03 g, 40 mmol) and of (phenylsulfonyl)acetonitrile (7.24 g, 40 mmol) in 70 ml absolute ethanol is heated under reflux in the presence of a catalytic quantity of piperidine (0.5 ml) for 48 hours. The reaction medium is cooled to room temperature and the precipitate formed is filtered and washed with cold ethanol. After drying in a dessicator, 10.45 g (yield 77%) of 2-benzenesulfonyl-3-[4-(2-methylallyloxy)phenyl]acrylonitrile are obtained in the form of a very pale yellow solid which is used as it is in the next step.

reactant | 4-(2-methylallyloxy)-benzaldehyde | 40 mmol, 7.03 g | CC(COC1=CC=C(C=O)C=C1)=C | C11H12O2
reactant | (phenylsulfonyl)acetonitrile | 40 mmol, 7.24 g | C1(=CC=CC=C1)S(=O)(=O)CC#N | C8H7NO2S
reactant | piperidine | 0.5 ml | N1CCCCC1 | C5H11N
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | 2-benzenesulfonyl-3-[4-(2-methylallyloxy)phenyl]acrylonitrile | 10.45 g, yield 77% | C1(=CC=CC=C1)S(=O)(=O)C(C#N)=CC1=CC=C(C=C1)OCC(=C)C | C19H17NO3S
